US08207168B2
5-[4-(3-Chloro-propoxy)-phenyl]-2-methyl-2H-pyridazin-3-one was prepared from 5-(4-hydroxy-phenyl)-2-methyl-2H-pyridazin-3-one with 1-bromo-3-chloro-propane using the procedure described in Example 86 Step 3; Mp 90-91° C.; MS m/z 279 (M+H).

reactant | 5-(4-hydroxy-phenyl)-2-methyl-2H-pyridazin-3-one | OC1=CC=C(C=C1)C1=CC(N(N=C1)C)=O | C11H10N2O2
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
product | 5-[4-(3-Chloro-propoxy)-phenyl]-2-methyl-2H-pyridazin-3-one | ClCCCOC1=CC=C(C=C1)C1=CC(N(N=C1)C)=O | C14H15ClN2O2
